US04826990
5-[[3-(2-Phenyl-4-thiazolylmethoxy)phenyl]methyl]-1H-tetrazole
To a solution of 9.0 g (0.03 mol) of 3-(2-phenyl-4-thiazolylmethoxy)benzenacetonitrile in 200 ml of dimethylformamide are added 9.5 g (0.15 mol) of sodium azide and 7.9 g (0.15 mol) of ammonium chloride, and the slurry is heated to 135° C. for 72 hours. The mixture is allowed to cool to room temperature, diluted with 200 ml of water, and extracted four times with 200 ml of ethyl acetate. The combined ethyl acetate solution is washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain an oil, which is subjected to high pressure liquid chromatography (ethyl acetate/hexane as eluent). Fraction 2 is concentrated to obtain 3.0 g (29%) of crystals, m.p. 160°-161° C.

reactant | 3-(2-phenyl-4-thiazolylmethoxy)benzenacetonitrile | 0.03 mol, 9.0 g | C1(=CC=CC=C1)C=1SC=C(N1)COC=1C=C(C=CC1)CC#N | C18H14N2OS
reactant | sodium azide | 0.15 mol, 9.5 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.15 mol, 7.9 g | [Cl-].[NH4+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 5-[[3-(2-Phenyl-4-thiazolylmethoxy)phenyl]methyl]-1H-tetrazole | 3.0 g, 29% | C1(=CC=CC=C1)C=1SC=C(N1)COC=1C=C(C=CC1)CC1=NN=NN1 | C18H15N5OS
